US03969530
4-hydroxy-3,5-di-tert.-butylphenyl-propionic acid-benzyl amide
To a solution of 22.4 g of benzyl amine (0.21 mol) in 100 ml of heptane 29.6 g of 4-hydroxy-3,5-di-tert.-butylphenyl-propionic acid-chloride (0.1 mol) -- dissolved in 200 ml of heptane -- were added dropwise at 20°C, then the solution was boiled under reflux for 3 hours. Working up followed in the manner described in Example 12.

reactant | benzyl amine | 0.21 mol, 22.4 g | C(C1=CC=CC=C1)N | C7H9N
reactant | 4-hydroxy-3,5-di-tert.-butylphenyl-propionic acid-chloride | 0.1 mol | OC1=C(C=C(C=C1C(C)(C)C)C(C(=O)Cl)C)C(C)(C)C | C17H25ClO2
solvent | heptane | 100 ml, 29.6 g | CCCCCCC | C7H16
solvent | heptane | 200 ml | CCCCCCC | C7H16
product | 4-hydroxy-3,5-di-tert.-butylphenyl-propionic acid-benzyl amide | C(C1=CC=CC=C1)NC(C(C)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C24H33NO2
